US07420055B2
5-phenyl-2-H-tetrazole (4 g, 27.36 mmol) was taken into NaOH (2.18 g, 54 mmol, dissolved in 10 ml of water), cooled to 0° C., methyl iodide (8.5 g, 60 mmol, dissolved in 40 ml acetone) was added and the reaction mixture was refluxed at 55° C. for 2 hours. The solvent was evaporated and the residue was dissolved in benzene. The benzene layer was washed with water, brine, dried over anhydrous Na2SO4 and concentrated. The residue was purified by column chromatography using 60-120 mesh size silica gel (10% ethyl acetate in pet-ether as eluent) to obtain 2-methyl-5-phenyl-2H-tetrazole as white solid (2 g, 46%).

reactant | 5-phenyl-2-H-tetrazole | 27.36 mmol, 4 g | C1(=CC=CC=C1)C=1N=NNN1 | C7H6N4
reactant | NaOH | 54 mmol, 10 ml, 2.18 g | [OH-].[Na+]
reactant | methyl iodide | 60 mmol, 40 ml, 8.5 g | CI | CH3I
product | 2-methyl-5-phenyl-2H-tetrazole | 2 g, 46% | CN1N=C(N=N1)C1=CC=CC=C1 | C8H8N4
